US05767014
A. 4,4'-bis(4-methoxyphenoxy)benzil
To a 200 ml round-bottom flask equipped with a mechanical stirrer, a nitrogen inlet, a thermometer and a Dean-Stark trap fitted with a condenser and a nitrogen outlet were added 4,4'-difluorobenzil (50 mmol, 12.3 g), 4-methoxyphenol (110 mmol, 13.6 g) and anhydrous K2CO3 (70 mmol, 9.7 g). This was followed by the addition of 100 ml N,N-dimethylacetamide (DMAC) and 30 ml toluene as an azeotroping agent. The contents of the flask were maintained at 140°-150° C. for 2-4 h to allow for the complete removal of water from the system. The reaction temperature was further raised to 160° C. and allowed to proceed for a further 12-14 h. The solution was subsequently cooled and filtered. Water was added dropwise to the filtrate with stirring and the precipitate was collected by suction filtration, washed well with water and air dried. The pure product (22 g, 93%) was obtained by recrystallization from isopropyl alcohol. (mp=121°-122° C.).

reactant | 4,4'-difluorobenzil | 50 mmol, 12.3 g | FC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)F | C14H8F2O2
reactant | 4-methoxyphenol | 110 mmol, 13.6 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | 70 mmol, 9.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4'-bis(4-methoxyphenoxy)benzil | 22 g, 93% | COC1=CC=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)OC)C=C1 | C28H22O6
